US07169544B2
Preparation of Monopalmitin-Stabilized Dispersions of Compound D-1:
Component D: A mixture of 5-bromo-4-hydroxy-6-methyl-1,3,3a,7-tetraazaindene, water, and 2.5N NaOH was placed in a beaker and heated to 50° C. to dissolve the materials and form Compound TAI-1. A mixture of boric acid and the indicated thermal solvent was dissolved in water by heating at 50° C. The solution was cooled to room temperature and a portion of deionized lime-processed gelatin was added to the solution to be hydrated for 30 minutes. The mixture was heated to 40° C. for 10 minutes to melt the gelatin. A portion of a dispersion of 6.5 μm polystyrene beads in gelatin was placed in another beaker and heated to 40° C. for 10 minutes to melt the gelatin. The two gelatin containing subcomponents were combined and the mixture was added a 4% active aqueous solution of ZONYL® FS-300 surfactant and a portion of the Compound TAI-1 solution described above.

reactant | 5-bromo-4-hydroxy-6-methyl-1,3,3a,7-tetraazaindene | BrC1=C(N2N=CN=C2N=C1C)O | C6H5BrN4O
reactant | NaOH | 2.5N | [OH-].[Na+]
reactant | TAI-1 | C1=C([C@H]([C@@H]([C@H]([C@H]1N[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)O)O)CO)O)O)O)CO | C19H33NO14
reactant | boric acid | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | Monopalmitin | CCCCCCCCCCCCCCCC(=O)OCC(CO)O | C19H38O4
